US07947718B2
(4-Isopropyl-piperazin-1-yl)-(5-piperidin-1-ylmethyl-pyrazin-2-yl)-methanone
5-Piperidin-1-ylmethyl-pyrazine-2-carboxylic acid methyl ester. A mixture of 5-formyl-pyrazine-2-carboxylic acid methyl ester (0.400 g, 2.40 mmol), piperidine (0.204 g, 2.40 mmol), and NaB(OAc)3H (1.40 g, 3.60 mmol) in DCM (10 mL) was stirred for 18 h at rt. The reaction was quenched by the addition of 10% aq. NaOH (10 mL) and the mixture was stirred for 30 min. The mixture was extracted with DCM (3×20 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated to yield the title compound (0.130 g, 23%).

reactant | 5-Piperidin-1-ylmethyl-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(N=C1)CN1CCCCC1 | C12H17N3O2
reactant | 5-formyl-pyrazine-2-carboxylic acid methyl ester | 2.40 mmol, 0.400 g | COC(=O)C1=NC=C(N=C1)C=O | C7H6N2O3
reactant | piperidine | 2.40 mmol, 0.204 g | N1CCCCC1 | C5H11N
reactant | NaB(OAc)3H | 3.60 mmol, 1.40 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (4-Isopropyl-piperazin-1-yl)-(5-piperidin-1-ylmethyl-pyrazin-2-yl)-methanone | 0.130 g, 23% | C(C)(C)N1CCN(CC1)C(=O)C1=NC=C(N=C1)CN1CCCCC1 | C18H29N5O
